US09169264B2
Step 1: Synthesis of 9H-fluoren-9-ylmethyl {2-[(4-{[(tert-butoxycarbonyl)amino]methyl}phenyl)amino]-2-oxoethyl}carbamate (#B118):
To a solution of Fmoc-Glycine (16 g, 54 mmol, 1.0 eq.) in dry DMF (160 mL) at 0° C. was added N,N-diisopropylethylamine (14 g, 108 mmol, 2.0 eq) and N N,N′,N′-Tetramethyl-O-(benzotriazol-1-yl)uronium tetrafluoroborate (16 g, 54 mmol, 1.0 eq). The mixture was stirred at 0° C. for 30 min and a solution of tert-butyl [4-(glycylamino)benzyl]carbamate (12 g, 54 mmol, 1.0 eq.) in dry DMF (50 mL) was added. The mixture was stirred at room temperature overnight poured into ice water (400 mL) and extracted with EtOAc (400 mL×2). The organic layer was washed with brine (200 mL×2), dried over Na2SO4 and concentrated in vacuum. The residue was re-crystallized from EtOAc (200 mL) and petroleum ether (400 mL) to afford #B118 (18 g, 66.6%) as a white solid. 1H NMR (400 Hz, DMSO-d6): δ 9.93 (s, 1H), 7.91 (d, 2H), 7.75 (d, 2H), 7.61 (m, 1H), 7.52 (d, 2H), 7.43 (m, 2H), 7.36 (m, 3H), 7.18 (d, 3H), 4.32 (d, 2H), 4.26 (m, 1H), 4.07 (d, 2H), 3.80 (d, 2H), 1.39 (s, 9H)

reactant | Fmoc-Glycine | 54 mmol, 16 g, 1.0 eq. | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCC(=O)O | C17H15NO4
reactant | N,N-diisopropylethylamine | 108 mmol, 14 g, 2.0 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-butyl [4-(glycylamino)benzyl]carbamate | 54 mmol, 12 g, 1.0 eq. | NCC(=O)NC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C14H21N3O3
solvent | DMF | 160 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 9H-fluoren-9-ylmethyl {2-[(4-{[(tert-butoxycarbonyl)amino]methyl}phenyl)amino]-2-oxoethyl}carbamate | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)NC(CNC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O | C29H31N3O5
